US05654316
3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-methoxyphenyl)benzene propanamide
3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(4-methoxyphenyl)-benzene propanamide (2.0 g) in CH2Cl2 (50 mL) was cooled to -5° to -10° C. and treated sequentially with Et3N (0.911 mL), and methanesulfonyl chloride (0.64 mL). After two hours the reaction mixture was washed with water (100 mL), brine (100 mL) and the organic layer separated, dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound (2.56 g).

reactant | 3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-(4-methoxyphenyl)-benzene propanamide | 2.0 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)OC)C)CCO | C19H21Cl2NO3
reactant | Et3N | 0.911 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.64 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-methoxyphenyl)benzene propanamide | 2.56 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)OC)C)CCOS(=O)(=O)C | C20H23Cl2NO5S
